US07981903B2
A solution of 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (3.00 g, 14.41 mmol), Hunig's Base (12.55 mL, 72.0 mmol), and bromo-acetylchloride (1.500 mL, 18.01 mmol) was stirred at room temperature for 2 hours, at which time quinoline was observed to still remain. Additional bromo-acetylchloride (1.500 mL, 18.01 mmol) was added, the reaction was stirred an additional 5 hours, N-ethylmethylamine (12.38 mL, 144 mmol) was added, and the reaction was maintained for 16 hours at room temperature. The reaction was poured into saturated aqueous sodium bicarbonate and diluted with ethyl acetate. The organic layer was dried over sodium sulfate, taken to a residue under reduced pressure, and the residue was purified by silica gel chromatography to afford N-ethyl-N-methyl-2-[6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-2-oxoethanamine (2.02 g, 45.6% yield) as a dark red solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.35 (s, 1 H), 7.18 (s, 1 H), 3.89 (s, 3 H), 3.75 (s, 2 H), 3.30 (s, 2 H), 2.81 (t, J=6.12 Hz, 2 H), 2.36-2.47 (m, 2 H), 2.19 (s, 3 H), 1.80-1.97 (m, 2 H), 0.86-1.02 (m, 3 H).

reactant | 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 14.41 mmol, 3.00 g | COC=1C=C2CCCNC2=CC1[N+](=O)[O-] | C10H12N2O3
reactant | Hunig's Base | 72.0 mmol, 12.55 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | bromo-acetylchloride | 18.01 mmol, 1.500 mL | BrCC(=O)Cl | C2H2BrClO
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | bromo-acetylchloride | 18.01 mmol, 1.500 mL | BrCC(=O)Cl | C2H2BrClO
reactant | N-ethylmethylamine | 144 mmol, 12.38 mL | C(C)NC | C3H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-ethyl-N-methyl-2-[6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-2-oxoethanamine | 2.02 g, 45.6% yield | C(C)N(CC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C15H21N3O4
